US08440666B2
1-(Pyridin-4-yl)ethanamine
2-[1-(Pyridin-4-yl)ethyl]isoindoline-1,3-dione (283 mg, 1.12 mmol) in methanol (3 mL) was mixed with hydrazine monohydrate (272 μL, 5.61 mmol) and stirred at room temperature for 16 hours. After completion of the reaction, the solid was filtered off with chloroform, and the filtrate was evaporated under reduced pressure repeatedly to give the desired product.

reactant | 2-[1-(Pyridin-4-yl)ethyl]isoindoline-1,3-dione | 1.12 mmol, 283 mg | N1=CC=C(C=C1)C(C)N1C(C2=CC=CC=C2C1=O)=O | C15H12N2O2
reactant | hydrazine monohydrate | 5.61 mmol, 272 μL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 1-(Pyridin-4-yl)ethanamine | N1=CC=C(C=C1)C(C)N | C7H10N2
